US04996216
At room temperature (about 20° C.), 7.8 g of 4-(3,6-dimethyl-2-pyrazinyloxy)-phenol in 20 ml of anhydrous dimethylformamide is dripped into 1.3 g of 80% strength sodium hydride in 30 ml of anhydrous dimethylformamide. The mixture is stirred for one hour at 70° C., and then 6.68 g of 1-chloromethyl-4,5-dichloroimidazole in 30 ml of anhydrous dimethylformamide is dripped in. The mixture is stirred for 8 hours at 70° C. and overnight at room temperature. It is then stirred into 200 ml of ethyl acetate, and this mixture is washed twice with water, four times with 5% strength sodium hydroxide solution and twice with saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and the solvent is evaporated off under reduced pressure. The crude product obtained is crystallized with n-hexane. There is obtained 8.9 g of 1-[4-(3,6-dimethyl-2-pyrazinyloxy)-phenoxymethyl]-4,5-dichloroimidazole; m.p.: 84°-85° C.

reactant | 4-(3,6-dimethyl-2-pyrazinyloxy)-phenol | 7.8 g | CC=1C(=NC(=CN1)C)OC1=CC=C(C=C1)O | C12H12N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloromethyl-4,5-dichloroimidazole | 6.68 g | ClCN1C=NC(=C1Cl)Cl | C4H3Cl3N2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[4-(3,6-dimethyl-2-pyrazinyloxy)-phenoxymethyl]-4,5-dichloroimidazole | 8.9 g | CC=1C(=NC(=CN1)C)OC1=CC=C(OCN2C=NC(=C2Cl)Cl)C=C1 | C16H14Cl2N4O2
